US07666901B2
Preparation of 4-[(11-Acetoxy-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,7,10,11,12,13,14,15,16,17-decahydro-2-oxa-cyclopenta[a]phenanthren-4-ylidenemethyl)-methyl-amino]-2,5-dimethyl-hex-2-enoic acid methyl ester
To a solution of 100 mg (0.23 mmol) 17-hydroxywortmannin in 2 mL CH2Cl2 is added 2,5-dimethyl-4-methylamino-hex-2-enoic acid methyl ester (86 mg, 0.46 mmol). The reaction mixture is stirred at room temperature for 12 hours and then concentrated in vacuo. The residue is dissolved in EtOAc and precipitated with hexane. The precipitate is washed two times with hexane to give the product as a yellow solid. MS (ESI) m/z 630 (M+).

reactant | 17-hydroxywortmannin | 0.23 mmol, 100 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | 2,5-dimethyl-4-methylamino-hex-2-enoic acid methyl ester | 0.46 mmol, 86 mg | COC(C(=CC(C(C)C)NC)C)=O | C10H19NO2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[(11-Acetoxy-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,7,10,11,12,13,14,15,16,17-decahydro-2-oxa-cyclopenta[a]phenanthren-4-ylidenemethyl)-methyl-amino]-2,5-dimethyl-hex-2-enoic acid methyl ester | COC(C(=CC(C(C)C)N(C)C=C1C(OC(C2(C=3C(CC4(C(CCC4C3C(C(=C12)O)=O)O)C)OC(C)=O)C)COC)=O)C)=O | C33H45NO10
